US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-ureido-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-84)
To a solution of (2S,4R)-N-{1-[4-(3-Amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide (50 mg, 0.10 mmol) in DCM (1 mL) was added trimethylsilyl isocyanate (23 mg, 0.20 mmol). The reaction mixture was stirred at room temperature for 18 hours. The reaction was quenched by adding 0.2 mL of water and concentrated under reduced pressure. The crude residue was purified by preparatory HPLC to afford the product (9 mg, 17%).

reactant | (2S,4R)-N-{1-[4-(3-Amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide | 0.10 mmol, 50 mg | NCCCOC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C28H30ClN3O3
reactant | trimethylsilyl isocyanate | 0.20 mmol, 23 mg | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-ureido-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | 9 mg, 17% | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCNC(=O)N)=O)C | C29H31ClN4O4
